US04438128
1-Phenoxy-3-[2-(1,3-dimethyl-5-phenylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol hydrogen fumarate
5.0 g. 4-Chloro-1,3-dimethyl-5-phenylpyrimidine-2,6(1H,3H)-dione, 4.2 g. 1-phenoxy-3-(2-aminoethylamino)-propan-2-ol and 3.5 ml. N-ethyldiisopropylamine are heated under reflux for 48 hours in 20 ml. acetonitrile. The reaction mixture is then evaporated, the residue is taken up in methylene chloride and the solution is shaken with 2 N aqueous sodium hydroxide solution, dried and separated by column chromatography on silica gel using, as elution agent, methylene chloride-methanol-ammonia-saturated methanol (40:1:1 v/v/v). The oil (5.3 g.) obtained by evaporation of the pure fractions is dissolved in 10 ml. ethyl acetate, whereupon the solution is mixed with a solution of 2 g. fumaric acid in 20 ml. ethanol. After crystallization has taken place, the crystals are filtered off with suction and subsequently washed with ethyl acetate. There are obtained 6.7 g. (62% of theory) of the desired product in the form of colorless crystals; m.p. 181°-183° C.

reactant | 4-Chloro-1,3-dimethyl-5-phenylpyrimidine-2,6(1H,3H)-dione | ClC=1N(C(N(C(C1C1=CC=CC=C1)=O)C)=O)C | C12H11ClN2O2
reactant | 1-phenoxy-3-(2-aminoethylamino)-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCN)O | C11H18N2O2
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-Phenoxy-3-[2-(1,3-dimethyl-5-phenylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol hydrogen fumarate | C(\C=C\C(=O)OC(COC1=CC=CC=C1)CNCCNC1=C(C(N(C(N1C)=O)C)=O)C1=CC=CC=C1)(=O)O | C27H30N4O7
